US08071773B2
c) 7-Aminomethyl-2,6-diazaspiro[4,5]decan-3-one
A suspension of 5.590 mmol of (2,6-bis-aminomethylpiperidin-2-yl)acetic acid hydrochloride and 22.340 mmol of N-ethyldiisopropylamine in 20 ml of ethyl acetate is admixed dropwise at 0° C. with a solution of 11.170 mmol of propylphosphonic anhydride (T3P®) (50% w/w in ethyl acetate). The reaction mixture is subsequently stirred at room temperature for 20 h. It is admixed with water (20 ml) the organic phase is separated off and the aqueous phase is extracted with ethyl acetate (3×). The combined organic phases are dried over sodium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60 F) and identified on the basis of the Rf value.

reactant | (2,6-bis-aminomethylpiperidin-2-yl)acetic acid hydrochloride | 5.590 mmol | Cl.NCC1(NC(CCC1)CN)CC(=O)O
reactant | N-ethyldiisopropylamine | 22.340 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 11.170 mmol | CCCP(=O)=O | C3H7O2P
reactant | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 7-Aminomethyl-2,6-diazaspiro[4,5]decan-3-one | NCC1NC2(CC(NC2)=O)CCC1 | C9H17N3O
